US09029399B2
Preparation of Intermediate 1-(2-chloroethyl)-3-(4-cyclopropylpyridin-3-yl) urea (I-1c)
1-Chloro-2-isocyanatoethane (472 mg, 4.477 mmol) was added drop wise to a stirred mixture of 4-cyclopropylpyridin-3-amine (I-1b: 400 mg, 2.78 mmol) in toluene (10 mL) at 0° C. The resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (10% methanol in CHCl3). The crude product was concentrated and purified by column chromatography on silica gel (2% methanol in CHCl3) afforded 200 mg of the product (28% yield).

reactant | 1-Chloro-2-isocyanatoethane | 4.477 mmol, 472 mg | ClCCN=C=O | C3H4ClNO
reactant | 4-cyclopropylpyridin-3-amine | 2.78 mmol, 400 mg | C1(CC1)C1=C(C=NC=C1)N | C8H10N2
reactant | methanol | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloroethyl)-3-(4-cyclopropylpyridin-3-yl) urea | 200 mg, 28% yield | ClCCNC(=O)NC=1C=NC=CC1C1CC1 | C11H14ClN3O
